US05362915
3-(3-Cyclopentyloxy-4-methoxyphenyl)-1-methoxycyclopent-2-ene (E11)
3-(3-Cyclopentyloxy-4-methoxyphenyl)-cyclopent-2-en-1-ol (150 mg, 0.55 mmol) (E10) was added to a suspension of powdered potassium hydroxide (89%, 138 mg, 2.2 mmol) under an argon atmosphere and then iodomethane (35μl, 0.56 mmol ) was added. The resulting mixture was stirred at room temperature for 3 hr, poured into water and extracted with ether. The ether extracts were washed three times with water, dried (sodium sulfate) and concentrated under reduced pressure. Purification by flash chromatography, eluting with 2:1 hexanes/ether, provided the title compound as an oil (120 mg, 76%).

reactant | 3-(3-Cyclopentyloxy-4-methoxyphenyl)-cyclopent-2-en-1-ol | 0.55 mmol, 150 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C1=CC(CC1)O | C17H22O3
reactant | potassium hydroxide | 2.2 mmol, 138 mg | [OH-].[K+]
reactant | iodomethane | 0.56 mmol, 35μl | IC | CH3I
solvent | water | O | H2O
product | 3-(3-Cyclopentyloxy-4-methoxyphenyl)-1-methoxycyclopent-2-ene | 120 mg, 76% | C1(CCCC1)OC=1C=C(C=CC1OC)C1=CC(CC1)OC | C18H24O3
